data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](C)P(OC)(Cl)Cl.C[OH:10]>>COP([O:21]C)(Cl)Cl.[H:20][OH+:10]C 10=20;20,21=21
[H:20][CH:21](C(=O)OC)[C:22](=[O:23])OC.[H:10][Na:11]>>CO[C:22](=[CH:21]C(=O)OC)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
CC[C:20](=[O+:21]CC(CO)[OH:10])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC[C:20]1([OH+:10]C(C[O:21]1)CO)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[CH3:10][Mg:11]I.[Mg]([P+:20](Cl)(Cl)Cl)I>>[CH3:10][P:20]([Mg]I)(Cl)(Cl)Cl.[Mg+:11]I 10,11=10,20
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C=C1)NC(=O)CC)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCC(=O)N[C:24]1=[CH:23][CH:22]=[C:21](C=C1)Br 10=20;20,21=21,22;22,23=23,24
